US07399775B2
3-(4-Chlorophenylsulfonylmethyl)benzonitrile
A dimethoxyethane (15 ml) suspension of sodium 4-chlorobenzenesulfinate (270 mg, 1.36 mmol) and 3-bromomethylbenzonitrile (222 mg, 1.13 mmol) was stirred at 70° C. for 3 days. After cooling the reaction mixture to room temperature, the solvent was concentrated under reduced pressure. Ethyl acetate was added to the residue. The mixture was washed successively with water and brine and then, dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was subjected to flash chromatography on a silica gel column and the fraction obtained from the hexane:ethyl acetate (=3:1) eluate was concentrated under reduced pressure, whereby the title compound (318 mg, 96%) was obtained as a white solid.

reactant | sodium 4-chlorobenzenesulfinate | 1.36 mmol, 270 mg | ClC1=CC=C(C=C1)S(=O)[O-].[Na+]
reactant | 3-bromomethylbenzonitrile | 1.13 mmol, 222 mg | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
solvent | dimethoxyethane | 15 ml | C(OC)COC | C4H10O2
product | 3-(4-Chlorophenylsulfonylmethyl)benzonitrile | ClC1=CC=C(C=C1)S(=O)(=O)CC=1C=C(C#N)C=CC1 | C14H10ClNO2S
